US07875715B2
Intermediate 137: 2-Amino-4-fluoro-N-methylbenzamide
A mixture of 2-amino 4-fluoro benzoic acid (2.5 g, 16.13 mmol) and 1,3 dimethyl urea (5.85 g, 66.5 mmol) was heated at 150° C. for 24 hours. The reaction was diluted with water, filtered and extracted twice with ethyl acetate. The organic extracts were dried over magnesium sulfate and concentrated at reduced pressure. Chromatography on silica gel with ethyl acetate in hexanes (0-50%) gave the title compound as a waxy solid (670 mg, 25%)

reactant | 2-amino 4-fluoro benzoic acid | 16.13 mmol, 2.5 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | 1,3 dimethyl urea | 66.5 mmol, 5.85 g | CNC(=O)NC | C3H8N2O
solvent | water | O | H2O
product | 2-Amino-4-fluoro-N-methylbenzamide | NC1=C(C(=O)NC)C=CC(=C1)F | C8H9FN2O
